US08802678B2
Step 2: 4-(2-hydroxyethyl)cyclohexanone
To a solution of 10 g (69 mmol) of 4-(2-hydroxyethyl)cyclohexanol in 50 mL of acetic acid maintained at a temperature between 18 and 21° C. are added over 35 min 35.9 mL (79 mmol) of an aqueous sodium hypochlorite solution. The mixture is further stirred for 45 min, TLC analysis indicating disappearance of starting material. Isopropanol (0.8 mL) is added, followed 10 min later by water (75 mL) and dichloromethane (100 mL). The two phases are separated by decantation and the aqueous phase is extracted with dichloromethane (50 mL). Combined organic phases are washed with an aqueous 3N sodium hydroxide solution (70 mL). This alcaline aqueous phase is extraced back with dichloromethane (30 mL). Combined organic phases are dried over magnesium sulfate and concentrated under reduced pressure to give 9.42 g (95%) of the title compound.

reactant | 4-(2-hydroxyethyl)cyclohexanol | 69 mmol, 10 g | OCCC1CCC(CC1)O | C8H16O2
reactant | sodium hypochlorite | 79 mmol, 35.9 mL | Cl[O-].[Na+]
reactant | Isopropanol | 0.8 mL | C(C)(C)O | C3H8O
reactant | water | 75 mL | O | H2O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(2-hydroxyethyl)cyclohexanone | 9.42 g, 95% | OCCC1CCC(CC1)=O | C8H14O2
